US04311698
A solution of 30.6 g (83 m mol) of 6-[4-(L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid, 56 ml (0.4 mol) of triethylamine, 19 ml (0.2 mol) of acetic anhydride, and 400 ml dimethylformamide is stirred at room temperature for 3 hrs. The reaction solution is evaporated to dryness under reduced pressure and the residue treated with ice and water. The solid is filtered, washed with water, methanol, ether and dried to give 27.6 g of 6-[4-(N-acetyl-L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; [α]D23 +19° (cl, DMSO). ##EQU45##

reactant | 6-[4-(L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 30.6 g | N[C@@H](CCC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C17H18N4O5
reactant | triethylamine | 0.4 mol, 56 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.2 mol, 19 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 6-[4-(N-acetyl-L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 27.6 g | C(C)(=O)N[C@@H](CCC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C19H20N4O6
